US07713982B2
d) 8-Chloro-3-(4-penten-1-yl)-3,7-dihydro-1H-purine-2,6-dione
8-Chloro-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione (0.10 g, 0.44 mmol) was dissolved in DMF (1.5 ml) containing sodium carbonate (0.12 g, 0.49 mmol) and 5-bromopentene (0.07 g, 0.49 mmol) and the mixture stirred for 18 h. On completion of alkylation, morpholine (0.5 ml) and tetrakis(triphenylphosphine)palladium (0) (0.08 g, 0.07 mmol) were added and stirring continued for 3.5 h. The reaction was diluted with ethyl acetate (10 ml) washed sequentially with 2N hydrochloric acid (2×5 ml) and brine (3×5 ml) and the organic isolated, dried (MgSO4) and concentrated. The crude product was suspended in methanol (2 ml) and purified on an aminopropyl SPE (5 g) eluting with methanol first then 5% acetic acid in methanol to elute the title compound which was isolated as a white solid after concentration (0.039 g, 35%). NMR; (400MHz, d6-DMSO) 1.75 (m, 2H), 2.05 (m, 2H), 3.85 (t, 2H, J=7 Hz), 4.95 (m, 1H), 5.05 (m, 1H), 5.8 (m, 1H), 11.1 (br s, 1H), one exchangeable proton not observed to δH 13; m/z 255[MH+]

reactant | 8-Chloro-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 0.44 mmol, 0.10 g | ClC1=NC=2NC(NC(C2N1CC=C)=O)=O | C8H7ClN4O2
reactant | sodium carbonate | 0.49 mmol, 0.12 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-bromopentene | 0.49 mmol, 0.07 g | BrCCCC=C | C5H9Br
reactant | morpholine | 0.5 ml | N1CCOCC1 | C4H9NO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.07 mmol, 0.08 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-Chloro-3-(4-penten-1-yl)-3,7-dihydro-1H-purine-2,6-dione | ClC1=NC=2N(C(NC(C2N1)=O)=O)CCCC=C | C10H11ClN4O2
